US07625477B2
A 2L-separable flask equipped with a thermometer, reflux condenser and stirrer was charged with 240 parts of 50% formaline, 55 parts of phenol, 101 parts of 98% industrial sulfuric acid and 212 parts of meta-xylene, which were reacted at 84-88° C. for 4 hours. After termination of the reaction, the reaction mixture was allowed to stand to be separated into the resin phase and aqueous sulfuric acid phase. The resin phase was washed three times with water, stripped of unreacted meta-xylene for 20 minutes under the conditions of 20-30 mmHg/120-130° C., to provide a xylene-formaldehyde resin having a viscosity of 1050 centipoise (25° C.)

reactant | formaline | C=O | CH2O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | meta-xylene | C1(=CC(=CC=C1)C)C | C8H10
product | xylene-formaldehyde | C1(=C(C(=CC=C1)C=O)C)C | C9H10O
